US07547804B2
Synthesis of 5-Chloro-2-hydroxy-N-(4-phenoxybenzyl)benzamide
To a solution of 5-chlorocsalicyclic acid in anhydrous DMF (5 mL) was added CDI (0.167 g, 1.043 mmol), at 25° C. under nitrogen atmosphere. The reaction mixture was stirred for another 2 h at 25° C. To the above reaction mixture 4-phenoxy benzylamine was added and stirring continued overnight. At the end of this period 2N HCl (20 mL) was added and extracted with ethyl acetate (2×20 mL). The combined ethyl acetate layer was washed with water (2×30 mL), dried (Na2SO4), filtered and solvent was evaporated. The resulting crude material was chromatographed over silica gel using mixture of ethyl acetate and hexanes (3:7) to give title product (0.121 g, 27%). 1H NMR (CDCl3) δ 4.60 (d, 2H), 6.44 (bs, 1H), 6.90-7.37 (m, 12H), 12.21 (s, 1H),

reactant | CDI | 1.043 mmol, 0.167 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4-phenoxy benzylamine | O(C1=CC=CC=C1)C1=CC=C(CN)C=C1 | C13H13NO
reactant | HCl | 2N, 20 mL | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-Chloro-2-hydroxy-N-(4-phenoxybenzyl)benzamide | 0.121 g, 27% | ClC=1C=CC(=C(C(=O)NCC2=CC=C(C=C2)OC2=CC=CC=C2)C1)O | C20H16ClNO3
